US08445684B2
A solution of 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine (229 mg, 1.0 mmol) and cyclohexanone (86 μL, 0.83 mmol) in MeNO2 (2 mL), followed by Et3SiH (160 μL, 1.0 mmol) were added successively to a suspension of FeCl3 (35 mg, 0.20 mmol) in MeNO2 (3 mL) at room temperature under Ar protection. After the mixture was stirred at rt for 112 h, the reaction was quenched by addition of phosphate buffer (pH 7). The mixture was extracted with CH2Cl2, and the organic layer was dried over Na2SO4. After evaporation, the residue was purified by CC (SiO2, hexane/EtOAc 10:1 to 6:1) to afford 1-(tert-butoxycarbonyl)-4-[2-(cyclohexyloxy)ethyl]piperidine together with a with by-product (182 mg total) as a colorless oil. This mixture was used in the following step without further purification.

reactant | 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine | 1.0 mmol, 229 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | cyclohexanone | 0.83 mmol, 86 μL | C1(CCCCC1)=O | C6H10O
reactant | Et3SiH | 1.0 mmol, 160 μL | [SiH](CC)(CC)CC | C6H16Si
solvent | MeNO2 | 2 mL | C[N+](=O)[O-] | CH3NO2
solvent | MeNO2 | 3 mL | C[N+](=O)[O-] | CH3NO2
product | 1-(tert-butoxycarbonyl)-4-[2-(cyclohexyloxy)ethyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1CCCCC1 | C18H33NO3
